US07435735B2
Step 1: Methyl N-(4-fluorobenzyl)glycinate
To a solution of methyl bromoacetate (24.0 mL, 253.5 mmol) in anhydrous THF (264 mL) was added triethylamine (35.34 mL, 253.5 mmol). The cloudy mixture was treated rapidly with 4-fluorobenzylamine (30.3 mL, 263.7 mmol), and the resulting viscous mixture was stirred at ambient temperature under inert atmosphere for 18 h. TH was removed in vacuo, and the residue was suspended in diethyl ether. The mixture was filtered and the solids washed with excess diethyl ether. Concentration of the filtrate in vacuo afforded the product as a light yellow oil.

reactant | methyl bromoacetate | 253.5 mmol, 24.0 mL | BrCC(=O)OC | C3H5BrO2
reactant | triethylamine | 253.5 mmol, 35.34 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzylamine | 263.7 mmol, 30.3 mL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | THF | 264 mL | C1CCOC1 | C4H8O
product | Methyl N-(4-fluorobenzyl)glycinate | FC1=CC=C(CNCC(=O)OC)C=C1 | C10H12FNO2
